*****************************************************************
* NXP BUK9Y65-100E
*
* Polarity N-Channel
* Ratings 100V/6.500000E-002OHMS/18.9531522060053A
*
* Date Created Tue Feb 05 08:46:42 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y65-100E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0478964880918052 TC=0.00562849896749477,3.3431133981229E-05
RBD 9 4 0.0025250594553971 TC=0.00562849896749477,3.3431133981229E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000
CGS 2 6 1.02e-09
RG 1 2 1.71663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1267.69
+ -16	1266.92
+ -10	1263.74
+ -5	1254.64
+ -4	1249.15
+ -3	1235.47
+ -2	1140.39
+ -1	794.516
+ -0.5	597.727
+ -0.2	453.529
+ -0.1	449.5
+ 0	355.13352
+ 0.1	272.52452
+ 0.2	272.18028
+ 0.5	225.3772
+ 1	192.64832
+ 2	151.68124
+ 3	135.85596
+ 4	124.96332
+ 5	116.44916
+ 6	109.84988
+ 8	100.2748
+ 10	93.4871
+ 12	88.26901
+ 15	82.20788
+ 16	80.43352
+ 20	74.866
+ 25	69.52883
+ 30	65.40415
+ 50	55.18402



.MODEL MINT NMOS(Vto=1.99872022951312 Kp=1.041056e+002 Nfs=350000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=1.09727641342348e-13
+ N=1 M=0.57 VJ=0.5 Fc=0.5 Cjo=2.3027104e-10 Tt=1.9816e-08)

.ENDS

